US05288871
4-Bromomethyl-benzene-1,2-diol dibenzoate
To a solution of 19.94 g (0.06 mol) of 4-methyl-benzene-1,2-diol dibenzoate in 350 mL of carbon tetrachloride was added a catalytic amount of 2,2'-azobisisobutyronitrile, followed by 10.68 g (0.06 mol) of N-bromosuccinimide. The reaction mixture was stirred at room temperature for several days and was then filtered. The filtrate was dried over MgSO4, filtered and evaporated to dryness in a rotary evaporator. Purification of the crude material (24.76 g) by HPLC gave 7.05 g of product which was used directly in the next step.

reactant | 4-methyl-benzene-1,2-diol dibenzoate | 0.06 mol, 19.94 g | C(C1=CC=CC=C1)(=O)OC=1C(=CC(=CC1)C)OC(C1=CC=CC=C1)=O | C21H16O4
reactant | 2,2'-azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 0.06 mol, 10.68 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 350 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromomethyl-benzene-1,2-diol dibenzoate | 7.05 g | C(C1=CC=CC=C1)(=O)OC=1C(=CC(=CC1)CBr)OC(C1=CC=CC=C1)=O | C21H15BrO4
